US06262045B1
3.1. 5-Methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetic acid
A solution of 3.3 g (9 mmol) of 8-chloro-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetic acid, of 2.8 g (44 mmol) of ammonium formate and of 1.8 g of 10% palladium-on-charcoal in 500 ml of ethanol is heated at reflux for 5 h. The reaction mixture is cooled, dichloromethane is added, the catalyst is removed by filtration through diatomaceous earth and the solvent is evaporated under reduced pressure. 3 g (9 mmol) of compound are obtained, which compound is used as is in the following stage.

reactant | 8-chloro-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetic acid | 9 mmol, 3.3 g | ClC1=CC=2C3=C(N(C2C=C1)C)C(N(N=C3CC(=O)O)C3=CC=CC=C3)=O | C19H14ClN3O3
reactant | ammonium formate | 44 mmol, 2.8 g | C(=O)[O-].[NH4+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 1.8 g | [Pd] | Pd
product | 5-Methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetic acid | 9 mmol, 3 g | CN1C2=C(C=3C=CC=CC13)C(=NN(C2=O)C2=CC=CC=C2)CC(=O)O | C19H15N3O3
